US05025031
Sulfamic acid 4-benzoylphenyl ester
This compound was prepared according to the procedure used in Example 56. A mixture of 9.9 g (0.05 mole) of 4-hydroxybenzophenone, 7.1 g (0.0505 mole) of chlorosulfonyl isocyanate and 75 ml of toluene gave 8.1 g (58%) of the title compound as off-white flakes, mp 131°-133° C.

reactant | 4-hydroxybenzophenone | 0.05 mole, 9.9 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | chlorosulfonyl isocyanate | 0.0505 mole, 7.1 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 4-benzoylphenyl ester | 8.1 g, 58% | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)OS(N)(=O)=O | C13H11NO4S
